US07906654B2
2-(7-chloro-6-fluoro-1H-benzimidazol-1-yl)ethanol
2-[(6-Amino-2-chloro-3-fluorophenyl)amino]ethanol (2.07 g, 10.2 mmol) is dissolved in formic acid (50.0 mL), and the resulting solution is heated to 100° C. for 1 hour. The solution is cooled to room temperature and then evaporated to dryness. The residue is suspended in NH3 (50.0 mL, 2N in EtOH) and stirred for 1 hour. The solution is concentrated to dryness, and the residue is suspended in EtOAc (50.0 mL). The organic phase is washed with 2N NaOH (50.0 mL), and the resulting aqueous phase is extracted 4 times with EtOAc (4×50.0 mL). The combined organic phases are dried with MgSO4, filtered and concentrated. The product is dissolved in EtOAc, filtered and recrystallized from EtOAc (895 mg, 41%). 1H NMR (400 MHz, DMSO-D6) δ ppm 3.74 (t, J=5.27 Hz, 2H) 4.52 (t, J=5.47 Hz, 2H) 4.99 (s, 1H) 7.25 (dd, J=10.16, 8.79 Hz, 1H) 7.64 (dd, J=8.79, 4.49 Hz, 1H) 8.21 (s, 1H).

reactant | 2-[(6-Amino-2-chloro-3-fluorophenyl)amino]ethanol | 10.2 mmol, 2.07 g | NC1=CC=C(C(=C1NCCO)Cl)F | C8H10ClFN2O
reactant | formic acid | 50.0 mL | C(=O)O | CH2O2
product | 2-(7-chloro-6-fluoro-1H-benzimidazol-1-yl)ethanol | ClC1=C(C=CC2=C1N(C=N2)CCO)F | C9H8ClFN2O
